US03968126
Ten grams of ferrocene and 2.0 g. of I were dissolved in 40 ml of dichloromethane. To this was added a mixture of 6.6 g of trifluoroacetic anhydride and 8.0 g of trifluoroacetic acid as catalyst. The solution was mixed and allowed to stand at 25°C. A nitrogen atmosphere was maintained in the reaction vessel during mixing and during the subsequent reaction. After 16 hours, 100 ml of water was stirred with the brown colored reaction mixture and enough ascorbic acid was added to discharge the green color of the aqueous phase and to turn the organic phase orange in color. The phases were separated and the organic phase was stirred with another 100 ml of water and separated. Dichloromethane was removed from the organic phase under reduced pressure and the residue was dissolved in 100 ml of methanol containing 2 ml of water and 2.0 g of potassium hydroxide. The solution was stirred for 30 minutes and then the methanol and water were removed under reduced pressure. The residue was extracted with (dissolved in) 700 ml of hot ethylene dichloride and filtered. The cooled filtrate was poured onto a dry 36 mm by 240 mm alumina column. Unreacted ferrocene, 5.0 g, was eluted from the column with ethylene dichloride. Using 2% methanol in ethylene dichloride, 5.8 g of a mixture of IV, V and other byproducts were eluted. Recrystallization of this mixture from ethylene dichloride gave 4.6 g (59% yield) of 4,4-diferrocenylheptane-1,7-diol, mp 166°-168°C. Another recrystallization raised the mp to 168°-170°C.

reactant | ferrocene | Ten grams | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | water | 100 ml | O | H2O
reactant | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | trifluoroacetic anhydride | 6.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
catalyst | trifluoroacetic acid | 8.0 g | FC(C(=O)O)(F)F | C2HF3O2
product | 4,4-diferrocenylheptane-1,7-diol | 4.6 g, 59% yield | [C-]1(C=CC=C1)C(CCCO)(CCCO)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2].[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C17H22O2.2C5H5.2Fe/c18-13-5-11-17(12-6-14-19,15-7-1-2-8-15)16-9-3-4-10-16;2*1-2-4-5-3-1;;/h1-4,7-10,18-19H,5-6,11-14H2;2*1-5H;;/q-2;2*-1;2*+2
